US05455260
To a solution of 4-bromo-t-butyldimethylsilyloxybenzene (8.3 g; 29 mmol) in THF (60 ml) at -78° C. is added a solution of butyllithium in hexane (14 ml; 35 mmol) over 10 minutes. This is allowed to stir 1 hour and 2-chlorobenzoxazole (4 ml; 35 mmol) is added dropwise over 5 minutes.-After stirring 15 minutes, the reaction is allowed to warm to 0° C. and is quenched with MeOH. This is then poured into 1N HCl and after stirring 1 hour is extracted with ethyl acetate. The organic extracts are dried (MgSO4) and then concentrated to yield 4-(benzoxazol-2-yl)phenol which is used directly in Step C.

reactant | 4-bromo-t-butyldimethylsilyloxybenzene | 29 mmol, 8.3 g | BrC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C12H19BrOSi
reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 35 mmol, 14 ml | CCCCCC | C6H14
reactant | 2-chlorobenzoxazole | 35 mmol, 4 ml | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-(benzoxazol-2-yl)phenol | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)O | C13H9NO2
